US07795278B2
3-Methyl-2H-isoquinolin-1-one (Compound 3)
24.6 g (140 mmol) of 4-hydroxy-3-methyl-2H-isoquinolin-1-one are heated together with 9.13 g (294 mmol) of red phosphorus in 55% hydriodic acid (130 ml) at 160° C. for 7 days. The cooled mixture is poured into water and extracted with dichloromethane. 10.2 g (46% yield) of a white solid are obtained.

reactant | 4-hydroxy-3-methyl-2H-isoquinolin-1-one | 140 mmol, 24.6 g | OC1=C(NC(C2=CC=CC=C12)=O)C | C10H9NO2
reactant | water | O | H2O
solvent | hydriodic acid | 130 ml | I | HI
product | 3-Methyl-2H-isoquinolin-1-one | 10.2 g, 46% yield | CC=1NC(C2=CC=CC=C2C1)=O | C10H9NO
